Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Augmentin
 
Attending: ___.
 
Chief Complaint:
none
 
Major Surgical or Invasive Procedure:
primary low transverse cesarean section
 
History of Present Illness:
___ yo G2P0101 at 35w0d returns after 24h urine protein returns 
elevated at 340mg. Denies headache, visual changes, RUQ pain. 
Feels well. No complaints. Has many questions about management 
of preeclampsia, whether she can be monitored as an outpatient. 
She denies contractions, leaking of fluid, or vaginal bleeding. 
Reports active fetal movement.
 
Past Medical History:
PRENATAL COURSE
EDC: ___ by LMP c/b 8wk U/S
Labs: O+/Ab-,RPRnr,RI,HepBsAg-, HIV neg
U/S: nl FFS, post placenta
Routine: T___ 1:49, T21 1:3381, nl amnio

PAST OBSTETRIC HISTORY (G2P0101)
(___) PPROM @31wks, 3#0

PAST GYNECOLOGIC HISTORY
denies abnl Pap or STIs

PAST MEDICAL HISTORY
heart murmur
MVA with head injury without residual issues and pelvic fracture

PAST SURGICAL HISTORY
hip surgery
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: AF, HR 92, BP 136/92, RR 16
GENERAL: NAD, anxious
LUNGS: CTAB
HEART: RRR
ABDOMEN: soft, NT, gravid
LOW EXT: NT/NE bilaterally
FHT: 130/mod/+accel/-decel
TOCO: none
SVE: deferred
 
Pertinent Results:
___ WBC-12.6 RBC-4.38 Hgb-13.3 Hct-37.8 MCV-87 Plt-285
___ WBC-12.3 RBC-4.54 Hgb-13.9 Hct-39.6 MCV-87 Plt-269
___ Creat-0.6 ALT-11 UricAcd-4.5
___ Creat-0.6 ALT-10 UricAcd-4.3
___ URINE pH-7 Hrs-24 Vol-1700 Cre-59 TProt-20 Pr/Cr-0.3
___ URINE 24Creat-1003 24Prot-___ y/o G2P1 admitted at 35w0d with mild preeclampsia.
.
Ms ___ had mildly elevated blood pressures on 
arrival to triage. She was asymptomatic and labs were normal. 
Fetal testing was reassuring. She was admitted for inpatient 
expectant management. On hospital day #2, she had an ultrasound 
and MFM consult. Ultrasound revealed IUGR, with an EFW 
1817g(<10%). At that time, delivery was recommended since she 
met criteria for severe preeclampsia with IUGR. The NICU was 
consulted. She underwent a primary LTCS on ___ at 35+2 weeks 
gestation. Liveborn male from breech, weighing 1885g, apgars 8 
and 9. She had an uncomplicated postoperative course. Her blood 
pressures ranged between 112-128/60-84. She requested an early 
discharge on POD#2. She will have a blood pressure and incision 
check in two weeks.

 
Medications on Admission:
prenatal vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
preeclampsia, IUGR, Breech, Preterm delivery
baby ___ 4#2oz
 
Discharge Condition:
good
 
Discharge Instructions:
No lifting, no intercourse, no tampons for 6 weeks
No dog walking, no exercising, no swimming for 4 weeks.
Call if persistent headache, BP > 150/90
See additional instruction sheet
 
Followup Instructions:
___